US04003914
1 g of homoveratric acid is dissolved in 15 ml of absolute tetrahydrofuran and treated wih 0.15 g of triethylamine. 0.72 g of chloroformic acid isobutyl ester are then slowly added dropwise at 0°-5° C and the mixture is stirred for 1 hour at 5°-10° C. There is then added dropwise a solution of 1.63 g of 2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine [prepared in a manner analogous to that described in Example 15 from 2-(γ-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane and methylamine] in 5 ml of tetrahydrofuran. The resulting mixture is left to stand at room temperature overnight. After evaporation of the solvent, the residue is partitioned between 1-M hydrochloric acid and ether. The organic extracts are washed with 5% sodium carbonate solution and water. After drying over magnesium sulphate, the solvent is removed by evaporation. The oily residue (1.5g) is dissolved in 15 ml of tetrahydrofuran and added dropwise to a suspension of 0.15 g of lithium aluminium hydride under reflux and under argon. The mixture is boiled for 2 hours and then treated slowly with a concentrated sodium sulphate solution in water and then with 10 ml of methylene chloride. The mixture is filtered under suction and then concentrated. The residue is chromatographed on silica gel and there is obtained N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine in the form of a thick oil.

reactant | homoveratric acid | 1 g | C(CC1=CC(OC)=C(OC)C=C1)(=O)O | C10H12O4
reactant | chloroformic acid isobutyl ester | 0.72 g | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | 2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine | 1.63 g | COC=1C=C(C=CC1OC)C1(SCCCS1)CCCNC | C16H25NO2S2
reactant | 2-(γ-chloropropyl)-2-(3,4-dimethoxyphenyl)-m-dithiane | ClCCCC1(SCCCS1)C1=CC(=C(C=C1)OC)OC | C15H21ClO2S2
reactant | methylamine | CN | CH5N
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
product | N-(3,4-dimethoxyphenethyl)-2-(3,4-dimethoxyphenyl)-N-methyl-m-dithiane-2-propylamine | COC=1C=C(CCN(CCCC2(SCCCS2)C2=CC(=C(C=C2)OC)OC)C)C=CC1OC | C26H37NO4S2
